US04670431
(c) Sodium 3-Carbamoyloxymethyl-7α-formamido-7β-thien-2-yl-acetamido-ceph-3-em-4-carboxylate-1-oxide
Oxidation of sodium 3-carbamoyloxymethyl-7α-formamido-7β-thien-2-yl-acetamido-ceph-3-em-4-carboxylate with peracetic acid in analogous manner to that described in Example 6(d) gives the title compound as a mixture of R- and and S-sulphoxide isomers.

reactant | sodium 3-carbamoyloxymethyl-7α-formamido-7β-thien-2-yl-acetamido-ceph-3-em-4-carboxylate | C(N)(=O)OCC=1C(S[C@H]2N(C1C(=O)[O-])C([C@]2(C=2SC=CC2)NC=O)=O)NC(C)=O.[Na+]
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
product | Sodium 3-Carbamoyloxymethyl-7α-formamido-7β-thien-2-yl-acetamido-ceph-3-em-4-carboxylate-1-oxide | C(N)(=O)OCC=1C(S([C@H]2N(C1C(=O)[O-])C([C@]2(C=2SC=CC2)NC=O)=O)=O)NC(C)=O.[Na+] | InChI=1S/C16H16N4O8S2.Na/c1-7(22)19-11-8(5-28-15(17)26)10(12(23)24)20-13(25)16(18-6-21,14(20)30(11)27)9-3-2-4-29-9;/h2-4,6,11,14H,5H2,1H3,(H2,17,26)(H,18,21)(H,19,22)(H,23,24);/q;+1/p-1/t11?,14-,16+,30?;/m1./s1
